US06617426B1
C. Diethyl(Phenylsulfonyl)methylphosphonate
A stirred solution of methyl phenyl sulfone (20 g, 0.128 mol) in dry THF (200 mL) was cooled at −78° C. in an acetone/dry ice bath. Lithium bis(trimethylsilyl)amide (Li HMDS; 134 mL, 1 M solution in THF, 0.134 mol) was added dropwise over 1 h. The resulting white suspension was stirred for an additional hour at −78° C. and diethyl chlorophosphate (18.5 mL, 128 mmol) in THF (20 mL) was added. The reaction mixture was stirred at −78° C. for 0.5 h, then allowed to slowly warm to room temperature and left stirring for 4 h. The reaction mixture was next concentrated under reduced pressure, the residue was dissolved in EA (500 mL), washed with brine (100 mL),dried over anhydrous Na2CO3 and concentrated under reduced pressure. The resultant crude material was purified by flash chromatography on silica gel (EA:H, 3:1 to 1:1) to afford the desired product as white solid (17.9 g, 48%).

reactant | methyl phenyl sulfone | 0.128 mol, 20 g | C1(=CC=CC=C1)S(=O)(=O)C | C7H8O2S
reactant | Lithium bis(trimethylsilyl)amide | 0.134 mol, 1 M, 134 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | diethyl chlorophosphate | 128 mmol, 18.5 mL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Diethyl(Phenylsulfonyl)methylphosphonate | 17.9 g, 48% | C(C)OP(OCC)(=O)CS(=O)(=O)C1=CC=CC=C1 | C11H17O5PS
